US03931181
8.6 G. of aniline were treated under cooling with 7.6 ml. of concentrated hydrochloric acid. Subsequently, 32 g. of 4-(2-cyano-3-morpholinoallyl)-2,6-dimethoxybenzoic acid methyl ester and 100 ml. of isopropanol were added. The suspension was heated at reflux with stirring for 30 minutes. About 1/3 to half of the solvent was evaporated and 20 ml. of water added. The resulting crystalline product was removed by filtration under vacuum, washed with a little cold methanol and dried. Recrystallization from methanol yielded 4-(3-anilino-2-cyanoallyl)-2,6-dimethoxybenzoic acid methyl ester of m.p. 193°-194°.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | Cl | ClH
reactant | 4-(2-cyano-3-morpholinoallyl)-2,6-dimethoxybenzoic acid methyl ester | COC(C1=C(C=C(C=C1OC)CC(=CN1CCOCC1)C#N)OC)=O | C18H22N2O5
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(3-anilino-2-cyanoallyl)-2,6-dimethoxybenzoic acid methyl ester | COC(C1=C(C=C(C=C1OC)CC(=CNC1=CC=CC=C1)C#N)OC)=O | C20H20N2O4
